US06689290B2
e) 2,5-difluoro-3,4-dihexyloxybenzene-1-boronic Acid
1,4-Difluoro-2,3-dihexyloxybenzene (11.2 g, 0.036 mol) was stirred, under nitrogen, in anhydrous tetrahydrofuran (150 ml). The reaction mixture was cooled to −78° C. and then butyl lithium (1.6M in hexanes, 24.38 ml, 0.039 mol) was added via cannular over one hour. Stirring was continued at −78° C. for 2 hours. This temperature was maintained whilst a solution of trimethylborate (4.05 g, 0.039 mol) in dry tetrahydrofuran (100 ml) was added drop-wise. The cooling bath was then removed and the reaction was stirred overnight at room temperature. Addition of HCl (1M, 36 ml) dissolved the white suspension and a yellow solution was formed. Extraction was performed with toluene (2×100 ml), the combined organics extracts were then washed with water (2×50 ml), dried with magnesium sulphate. Removal of the drying agent by filtration and the solvent in vacuo yielded a brown oil containing the crude product (11.95 g, 93%). The product was used in the next step without further purification.

reactant | 1,4-Difluoro-2,3-dihexyloxybenzene | 0.036 mol, 11.2 g | FC1=C(C(=C(C=C1)F)OCCCCCC)OCCCCCC | C18H28F2O2
reactant | butyl lithium | 0.039 mol, 1.6M, 24.38 ml | C(CCC)[Li]
reactant | trimethylborate | 0.039 mol, 4.05 g | COB(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,5-difluoro-3,4-dihexyloxybenzene-1-boronic Acid | FC1=C(C=C(C(=C1OCCCCCC)OCCCCCC)F)B(O)O | C18H29BF2O4
